US06011174
10.4 g of (2RS,3SR)-3-(2-fluoro-4-biphenylyl)-5-phenylpentan-2-ol was dissolved in 100 ml of vinyl acetate, and 4.3 ml of triethylamine was added. Then, 518 mg of immobilized lipase (Toyothium LIP) was added, followed by stirring at room temperature for 5 days. The enzyme was filtered off and washed with ethyl acetate. The filtrate and the washing liquid were put together, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→5/1) to obtain 5.47 g of (2R,3S)-2-acetoxy-3-(2-fluoro-4-biphenylyl)-5-phenylpentane and 4.79 g of the above identified compound, respectively, as colorless oily substances. The absolute configuration of the above identified compound was determined by Mosher method (J. Am. Chem. Soc., vol. 113, p. 4092 (1991)).

reactant | (2RS,3SR)-3-(2-fluoro-4-biphenylyl)-5-phenylpentan-2-ol | 10.4 g | FC1=C(C=CC(=C1)C(C(C)O)CCC1=CC=CC=C1)C1=CC=CC=C1 | C23H23FO
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
reactant | vinyl acetate | 100 ml | C(C)(=O)OC=C | C4H6O2
product | (2R,3S)-2-acetoxy-3-(2-fluoro-4-biphenylyl)-5-phenylpentane | 5.47 g | C(C)(=O)O[C@H](C)[C@@H](CCC1=CC=CC=C1)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C25H25FO2
